* bias-core-designer-check -- stimulus half of the testbench fragment.
*
* The other half is a verbatim copy of design/netlist/bias_core.spice,
* appended by sim/build_tb.py to produce tb_bias_core.spice. Edit THIS file
* (or the schematic), never the generated fragment.
*
* Netlist FRAGMENT: no .include / .lib / .temp / .control / .end -- the
* harness owns those. Parameters it supplies: vdd_val, vdd_nom, temp_c.
*
* bias_core has NO enable pin and no off state, so there is only one Iq
* state to measure: the always-on one. That is exactly the state
* spec/target-spec.md SS5 rule 1 quotes por-iq in, which is why this record
* can charge the whole of branch 1's supply current to that row without any
* apportionment argument.
*
* FOUR branches, all in one transient so every number below comes from one
* corner point:
*
*   1. xst   STATIC DUT at this point's vdd_val, DC supply. Supplies the
*            settled numbers (VREF, IBIAS, Iq, BIAS_OK) AND the degenerate-
*            state check: this deck does NOT use `uic`, so ngspice solves a
*            real operating point at t=0 with this branch already at full
*            rail. `vref_op_v` samples that solution. A bandgap loop has a
*            zero-current solution as well as its intended one, and the DC
*            solver is free to land on it -- design/temp_core.md records
*            exactly that happening to #9's first revision. If it lands
*            there here, vref_op_v reads ~0 and the check fails.
*
*   2. xs    SLOW ramp (0 -> vdd_val in 500 us), then held. Supplies settling
*            time, the core's dropout voltage, and BIAS_OK's assertion point
*            measured against the reference's OWN settled value at the same
*            corner (branch 1's), not against a hardcoded target.
*
*   3. xf    FAST ramp: 0 -> vdd_val in 3.63 us, i.e. exactly 1.0 V/us at
*            the 3.63 V rail -- spec/target-spec.md#por-ramp-rate's ratified
*            FAST LIMIT, not beyond it. This is where a reference that is
*            still settling could let the POR comparator release early, so
*            both ramps carry the release guard and the false-valid integral
*            below.
*
*   4. xb    BROWNOUT: settle, dip to 0.5 V (rail low but nodes still
*            charged -- the classic latch trap), recover, then collapse to
*            0 V and recover again. `bo_*_ppm` compare the reference before
*            and after each event.
*
* THE FALSE-VALID INTEGRAL (Bfos / Bfof) is the correctness statement about
* BIAS_OK: it is 1 whenever BIAS_OK is a valid high AND the reference is more
* than 100 mV BELOW its settled value at this corner, and the record
* integrates it into a time. Zero means "BIAS_OK was never a valid high on a
* reference that was low enough to matter".
*
* It is deliberately ONE-SIDED, matching the settle detector it is testing.
* A reference that is HIGH raises por_comparator's threshold and therefore
* delays release, which spec/target-spec.md#por-reset-pulse explicitly does
* not bound ("no maximum specified in wave 1"). A reference that is LOW
* lowers the threshold and releases early, below the ratified
* spec/target-spec.md#por-vth-rise minimum. Only the second is a correctness
* failure, and only the second is counted here.
*
* THE RELEASE GUARD (Brels / Brelf) is the load-bearing measurement for
* BIAS_OK. por_comparator releases when its divided rail reaches VREF, i.e.
* when VDD >= VREF * (RTOP+RBOT)/RBOT = 2.16667*VREF
* (design/por_comparator.md, "Device sizing"), and that decision only becomes
* authoritative once BIAS_OK is high (DR-005 startup ordering, step 4). The
* B-source therefore reports -1 whenever BIAS_OK is not a valid high and
* (VDD - 2.16667*VREF) when it is; its first zero crossing is the rail at
* which the assembled block WOULD release. Checking that against
* spec/target-spec.md#por-vth-rise's 2.47 V minimum is a direct test of
* "BIAS_OK never goes valid early enough to matter", which is stronger than
* timing BIAS_OK against VREF in isolation.
*
* The 2.16667 ratio is por_comparator's committed divider ratio, quoted here
* as a constant rather than simulated: this record is about bias_core, and
* wiring the real comparator in would make it a top-level record instead
* (that is #14's job). sim/bias-core-ibias-sharing/ is the one place this
* issue does instantiate the neighbours, and only to check the shared IBIAS
* net, not thresholds.

* ---- 1. static DUT, full rail, IBIAS metered -------------------------
* The IBIAS load is a diode-connected nfet_03v3 2u/2u -- por_comparator's
* own XMBD (design/por_comparator.md, "Enable path"), so the pin sees the
* load it will actually drive in the reset-asserted state.
vsupst vddst 0 dc {vdd_val}
vibst  nibst ibiasst dc 0
xst    vddst 0 nibst vrefst bias_okst bias_core
xmldst ibiasst ibiasst 0 0 nfet_03v3 L=2u W=2u nf=1 m=1

* ---- 2. slow ramp ----------------------------------------------------
vsups vdds 0 PWL(0 0 500u {vdd_val} 2m {vdd_val})
vibs  nibs ibiass dc 0
xs    vdds 0 nibs vrefs bias_oks bias_core
xmlds ibiass ibiass 0 0 nfet_03v3 L=2u W=2u nf=1 m=1
Bes  es  0 v = abs(v(vrefs) - v(vrefst))
Brels rels 0 v = (v(bias_oks) > 0.5*v(vdds)) ? (v(vdds) - 2.16667*v(vrefs)) : -1
Brr9s rr9s 0 v = v(vrefs) - 0.9*v(vrefst)
Bfos fos 0 v = ((v(bias_oks) > 0.5*v(vdds)) ? 1 : 0) * ((v(vrefst)-v(vrefs) > 0.1) ? 1 : 0)

* ---- 3. fast ramp ----------------------------------------------------
vsupf vddf 0 PWL(0 0 3.63u {vdd_val} 2m {vdd_val})
vibf  nibf ibiasf dc 0
xf    vddf 0 nibf vreff bias_okf bias_core
xmldf ibiasf ibiasf 0 0 nfet_03v3 L=2u W=2u nf=1 m=1
Bef  ef  0 v = abs(v(vreff) - v(vrefst))
Brelf relf 0 v = (v(bias_okf) > 0.5*v(vddf)) ? (v(vddf) - 2.16667*v(vreff)) : -1
Bfof fof 0 v = ((v(bias_okf) > 0.5*v(vddf)) ? 1 : 0) * ((v(vrefst)-v(vreff) > 0.1) ? 1 : 0)

* ---- 4. brownout: shallow dip, then full collapse --------------------
vsupb vddb 0 PWL(0 0 100u {vdd_val} 400u {vdd_val} 410u 0.5 550u 0.5
+ 560u {vdd_val} 950u {vdd_val} 960u 0 1100u 0 1110u {vdd_val} 2m {vdd_val})
vibb  nibb ibiasb dc 0
xb    vddb 0 nibb vrefb bias_okb bias_core
xmldb ibiasb ibiasb 0 0 nfet_03v3 L=2u W=2u nf=1 m=1
Bfob fob 0 v = ((v(bias_okb) > 0.5*v(vddb)) ? 1 : 0) * ((v(vrefst)-v(vrefb) > 0.1) ? 1 : 0)
